US09403839B2
To a solution of 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one (3.65 g, 8.68 mmol) in methanol (35 mL) was slowly added sodium borohydride (328 mg, 8.68 mmol). After 2 hours, saturated ammonium chloride (75 mL) was added. The mixture was allowed to stir for 15 minutes, and the mixture was concentrated to half volume under reduced pressure. The remaining suspension was extracted with ethyl acetate (3×75 mL). Organic layers were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (70-100% ethyl acetate/hexane) to afford (4-hydroxy-2-(pyridin-3-yl)-1-oxa-9-azaspiro[5.5]undec-2-en-9-yl)(4-isopropoxy-3-methylphenyl)methanone (3.32 g). 1H NMR (400 MHz, CDCl3) δ 8.90 (d, J=1.8 Hz, 1H), 8.57 (dd, J=4.7, 1.3 Hz, 1H), 7.91 (d, J=8.0 Hz, 1H), 7.31 (dd, J=8.0, 4.8 Hz, 1H), 7.23 (dd, J=13.9, 5.8 Hz, 2H), 6.81 (d, J=8.1 Hz, 1H), 5.56 (d, J=3.5 Hz, 1H), 4.56 (dt, J=12.0, 6.0 Hz, 2H), 4.51-4.22 (m, 1H), 3.82 (br s, 1H), 3.39 (br s, 2H), 2.21 (s, 3H), 2.17-1.55 (m, 6H), 1.34 (d, J=6.0 Hz, 6H). ESI-MS m/z calc. 422.2, found 423 (M+1)+; Retention time: 1.23 minutes (3 min run).

reactant | 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one | 8.68 mmol, 3.65 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(C=C(O3)C=3C=NC=CC3)=O)C=C1)C | C25H28N2O4
reactant | sodium borohydride | 8.68 mmol, 328 mg | [BH4-].[Na+]
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | methanol | 35 mL | CO | CH4O
product | (4-hydroxy-2-(pyridin-3-yl)-1-oxa-9-azaspiro[5.5]undec-2-en-9-yl)(4-isopropoxy-3-methylphenyl)methanone | 3.32 g | OC1C=C(OC2(C1)CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)C=2C=NC=CC2 | C25H30N2O4
